US08486946B2
Step 2: Preparation of (±)—N-methoxy-N-methyl-2-(prop-2-en-1-yloxy) propanamide
A suspension of N-methyl-O-methyl hydroxylamine hydrochloride (10.0 g, 104 mmol, 2 equiv) in dichloromethane (100 mL) was treated with trimethylaluminum (52.0 mL, 104 mmol, 2 equiv) at 0° C. After stirring for 1 hour at 0° C., a dichloromethane (50 mL) solution of (±)-methyl 2-(prop-2-en-1-yloxy)propanoate (7.50 g, 52.0 mmol) was added over 15 minutes. The mixture was warmed to ambient temperature and stirred for an additional 14 hours. The mixture was treated with water (500 mL) and extracted with dichloromethane (2×300 mL). The combined organic extracts were dried with sodium sulfate, filtered, and concentrated in vacuo to provide the titled compound.

reactant | N-methyl-O-methyl hydroxylamine hydrochloride | 104 mmol, 10.0 g, 2 equiv | Cl.CNOC
reactant | trimethylaluminum | 104 mmol, 52.0 mL, 2 equiv | C[Al](C)C
reactant | (±)-methyl 2-(prop-2-en-1-yloxy)propanoate | 52.0 mmol, 7.50 g | C(C=C)OC(C(=O)OC)C | C7H12O3
reactant | water | 500 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (±)—N-methoxy-N-methyl-2-(prop-2-en-1-yloxy) propanamide | CON(C(C(C)OCC=C)=O)C | C8H15NO3
